US05201931
Z-4-(5-acetoxy-3-methyl-pent-3-en-1-ynyl)-3,4-epoxy-3,5,5-trimethylcyclohexan-1-ol (4)
To a solution of Z-4-(5-acetoxy-3-methyl-pent-3-en-1-ynyl)-3,5,5-trimethylcyclohex-3-en-1-ol (42 mg, 0.15 mmol) in toluene (6 mL) was added t-butyl hydroperoxide (3M solution in 2,2,4-trimethylpentane, 0.07 mL, 0.21 mmol) and vanadyl acetylacetonate (3 mg, 0.01 mmol). The reaction mixture, which was reddish orange in color, was stirred under argon at room temperature for 20 min. and then was heated to 70° C. for 30 min. The color of the mixture changed to yellow. After cooling to room temperature, saturated NaHSO3 was added with stirring until there was no peroxide as indicated by peroxide test tapes. The organic and aqueous layers were separated. The aqueous layer was extracted three times with ether. The combined organic layers were washed with H2O, saturated NaHCO3, H2O and dried over anhydrous Na2SO4. Evaporation of solvent gave yellow oil (46 mg) which was purified using the Chromatotron™ sold by Harrison Scientific and with 75% ether+25% hexane as solvent to give compound (4) as a colorless oil (17 mg, 38%), ir: 3620 (weak, sharp, OH), 3500 (weak, broad, OH), 1740 (strong, sharp, C=O) cm-1; 1H nmr d: 5.80 (ddq, J=6.9, 6.9, 1.6 Hz, 1H, =CH), 4.71 (dd, 6.9, 1.0 Hz, 2H, CH2O), 3.83 (m, 1H, CHOH), 2.19 (ddd, J=14.7, 6.8, 1.5 Hz, 1H, CH2), 2.03 (s, 3H, CH3COO), 1.89 (m, 3H, vinyl CH3), 1.81 (dd, J=14.7, 8.9 Hz, 1H, CH2), 1.47 (s, CH3), 1.37 (ddd, J=12.7, 4.0, 1.5 Hz, 1H, CH2), 1.18 (s, 6H, 2CH3); ms (isobutane CI) m/z: 293 (M+1), 331 (M+39); (NH4Cl CI): 310 (M+18), 275 (M-17), 233 (M-59).

reactant | Z-4-(5-acetoxy-3-methyl-pent-3-en-1-ynyl)-3,5,5-trimethylcyclohex-3-en-1-ol | 0.15 mmol, 42 mg | C(C)(=O)OC\C=C(/C#CC1=C(CC(CC1(C)C)O)C)\C | C17H24O3
reactant | t-butyl hydroperoxide | 0.21 mmol, 3M, 0.07 mL | C(C)(C)(C)OO | C4H10O2
reactant | NaHSO3 | OS(=O)[O-].[Na+]
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
catalyst | vanadyl acetylacetonate | 0.01 mmol, 3 mg | C/C(=C\C(=O)C)/O.C/C(=C\C(=O)C)/O.O=[V]
product | Z-4-(5-acetoxy-3-methyl-pent-3-en-1-ynyl)-3,4-epoxy-3,5,5-trimethylcyclohexan-1-ol | 46 mg | C(C)(=O)OC\C=C(/C#CC12C(CC(CC1(C)C)O)(C)O2)\C | C17H24O4
